US05965679
(b) Preparation of 4,4'-Dibromobenzil
A solution of 4,4'-dibromobenzoin (20.2 g, 0.055 mol), ammonium nitrate (4.6 g, 0.0575 mol) and copper(II) acetate (0.100 g, 0.0005 mol) in 80 percent aqueous acetic acid (200 mL) is heated at reflux for three hours. The reaction mixture is cooled to room temperature and the product which crystallizes out is filtered off, washed with ethanol and dried, giving 13.0 g (64 percent) of product as a light yellow solid, mp 226° C. to 228° C. 1H NMR (CDCl3) δ 7.83 (d, J=8.5 Hz, 4H), 7.66 (d, J=8.5 Hz, 4H); 13C NMR (CDCl3) δ 192.25, 132.44, 131.45, 131.22, 130.7.

reactant | 4,4'-dibromobenzoin | 0.055 mol, 20.2 g | BrC1=CC=C(C=C1)C(=O)C(O)C1=CC=C(C=C1)Br | C14H10Br2O2
reactant | ammonium nitrate | 0.0575 mol, 4.6 g | [N+](=O)([O-])[O-].[NH4+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | copper(II) acetate | 0.0005 mol, 0.100 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4,4'-Dibromobenzil | 13.0 g, 64 percent | BrC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Br | C14H8Br2O2
